US08183289B2
A flask was charged with cyclopropyl magnesium bromide (29.6 ml, 14.8 mmol) and placed under nitrogen. Zinc chloride (14.8 ml, 14.8 mmol) was added and the reaction was stirred for 20 minutes. 3-Bromo-4-fluorobenzaldehyde (1.0 g, 4.93 mmol) and bis(tri-t-butylphosphine)palladium (0) (0.126 g, 0.246 mmol) were diluted in 600 μL of THF and added to the reaction mixture. After stirring for 4 hours, the reaction was heated to 50° C. and stirred overnight. The reaction was cooled and quenched with saturated NH4Cl and extracted with DCM. The organic layer was dried over MgSO4, filtered and concentrated. The material was purified using a biotage 40M cartridge eluting with hexanes:ethyl acetate (4:1) to yield 3-cyclopropyl-4-fluorobenzaldehyde (400 mg, 49.5% yield)

reactant | cyclopropyl magnesium bromide | 14.8 mmol, 29.6 ml | C1(CC1)[Mg]Br
reactant | 3-Bromo-4-fluorobenzaldehyde | 4.93 mmol, 1.0 g | BrC=1C=C(C=O)C=CC1F | C7H4BrFO
solvent | THF | 600 μL | C1CCOC1 | C4H8O
catalyst | Zinc chloride | 14.8 mmol, 14.8 ml | [Cl-].[Zn+2].[Cl-]
catalyst | bis(tri-t-butylphosphine)palladium | 0.246 mmol, 0.126 g | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | 3-cyclopropyl-4-fluorobenzaldehyde | 400 mg, 49.5% yield | C1(CC1)C=1C=C(C=O)C=CC1F | C10H9FO
